US04386146
Synthesis of 1-(2-hydroxyethyl)-4-[3-{1-(2-hydroxyethyl)-1,4-dihydroquinolin-4-ylidene}-1-propen-1-yl]-quinolinium bromide (Compound No. 1)
On an oil bath, 2.7 g of 1-(2-hydroxyethyl)-4-methylquinolinium bromide and diphenylformamidine were heated for 5 minutes to melt them. Thereto was added 150 ml of ethanol, and the resulting mixture was boiled, upon which 1-(2-hydroxyethyl)-4-(2-anilinovinyl)-quinolinium bromide was crystallized. Then, 2.5 g of 1-hydroxyethyl-4-methylquinolinium bromide and 10 ml of triethylamine were added thereto and subjected to reaction under reflux for one hour. After completion of the reaction, the reaction product was cooled and the crude crystals thus obtained were recrystallized from methanol to obtain 2 g of the objective compound (melting point 262° C.) which was dark green. Its maximum absorption wavelength as measured in methanol was 707 nm.

reactant | 1-(2-hydroxyethyl)-4-methylquinolinium bromide | 2.7 g | [Br-].OCC[N+]1=CC=C(C2=CC=CC=C12)C
reactant | diphenylformamidine | C1(=CC=CC=C1)N(C=N)C1=CC=CC=C1 | C13H12N2
reactant | 1-(2-hydroxyethyl)-4-(2-anilinovinyl)-quinolinium bromide | [Br-].OCC[N+]1=CC=C(C2=CC=CC=C12)C=CNC1=CC=CC=C1
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-(2-hydroxyethyl)-4-[3-{1-(2-hydroxyethyl)-1,4-dihydroquinolin-4-ylidene}-1-propen-1-yl]-quinolinium bromide | 2 g | [Br-].OCC[N+]1=CC=C(C2=CC=CC=C12)C=CC=C1C=CN(C2=CC=CC=C12)CCO | InChI=1S/C25H25N2O2.BrH/c28-18-16-26-14-12-20(22-8-1-3-10-24(22)26)6-5-7-21-13-15-27(17-19-29)25-11-4-2-9-23(21)25;/h1-15,28-29H,16-19H2;1H/q+1;/p-1
